US07326788B2
6-Chloro-3-(5-methyl-isoxazol-3-yl)-4-phenyl-1H-quinolin-2-one
Synthesized from (5-methyl-isoxazol-3-yl)-acetic acid (J. Med. Chem., 34(2), 518, 1991) and (2-amino-5-chloro-phenyl)-phenyl-methanone according to general procedure 2. Yield 69%.

reactant | (5-methyl-isoxazol-3-yl)-acetic acid | CC1=CC(=NO1)CC(=O)O | C6H7NO3
reactant | (2-amino-5-chloro-phenyl)-phenyl-methanone | NC1=C(C=C(C=C1)Cl)C(=O)C1=CC=CC=C1 | C13H10ClNO
product | 6-Chloro-3-(5-methyl-isoxazol-3-yl)-4-phenyl-1H-quinolin-2-one | Yield 69% | ClC=1C=C2C(=C(C(NC2=CC1)=O)C1=NOC(=C1)C)C1=CC=CC=C1 | C19H13ClN2O2
